US08791114B2
1-(3,4-dimethoxy-phenyl)-3-methyl-but-2-en-1-one.
A round bottom flask equipped with a stir bar and nitrogen inlet was charged with veratrole (2.5 mL, 20 mmol), 3,3-dimethyl acryloyl chloride (2.2 mL, 20 mmol) and dry CH2Cl2, (100 mL). The solution was cooled to 0° C. and AlCl3 (2.6 g, 20 mmol) was added portionwise. On completion of addition, the cooling bath was removed and the reaction was allowed 3 h. TLC showed consumption of SM. It was added to saturated NH4Cl (100 mL) and stirred vigourously for 15 min. The phases were separated and the CH2Cl2 phase was washed with saturated Na2CO3 (100 mL), washed with brine, (100 mL), dried (Na2SO4) and the solvent was evaporated under reduced pressure. The material was used as is in the next step. Amount obtained: 4.3 g, 19.5 mmol, 98% yield. LC-MS (ESI) m/e 221 (M+H). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.02 (s, 3H) 2.20 (s, 3H) 3.96 (s, 6H) 6.73 (s, 1H) 6.89 (d, J=8.20 Hz, 1H) 7.53-7.60 (m, 2H). Step 2

reactant | veratrole | 20 mmol, 2.5 mL | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | 3,3-dimethyl acryloyl chloride | 20 mmol, 2.2 mL | CC(=CC(=O)Cl)C | C5H7ClO
reactant | AlCl3 | 20 mmol, 2.6 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(3,4-dimethoxy-phenyl)-3-methyl-but-2-en-1-one | 98% yield | COC=1C=C(C=CC1OC)C(C=C(C)C)=O | C13H16O3
